US05313003
a) (3-allyl-)heptafluorobutan-2-one
396 g (1.98 mol) of octafluorobut-2-ene is condensed into 116 g (2 mol) of allyl alcohol at -5° C. Then 113 g (1.98 mol) of KOH, dissolved in 150 ml of water, is slowly added dropwise over the course of 3 hours, the temperature being maintained at 0°-5° C. Stirring continues overnight at room temperature and working-up is performed in the same way as in Example 2a.

reactant | octafluorobut-2-ene | 1.98 mol, 396 g | FC(C(=C(C(F)(F)F)F)F)(F)F | C4F8
reactant | allyl alcohol | 2 mol, 116 g | C(C=C)O | C3H6O
reactant | KOH | 1.98 mol, 113 g | [OH-].[K+]
solvent | water | 150 ml | O | H2O
product | (3-allyl-)heptafluorobutan-2-one | C(C=C)C(C(C(F)(F)F)=O)(C(F)(F)F)F | C7H5F7O
